US08119692B2
3-(1,3-Dioxolan-2-yl)-1-(4-fluoro-3-methylphenyl)propan-1-ol (Intermediate A3)
To a suspension of Mg turnings (1.1 g, 0.05 g-at.) and catalytic amount of iodine in 200 mL THF was added dropwise 2-(2-bromoethyl)-[1,3]dioxolane (4.3 g, 0.02 mol) with heating over a period of 30 min. The resulting mixture was stirred for 30 min at 63° C. and then cooled to −30° C. and 4-fluoro-3-methyl-benzaldehyde (3.0 g, 0.02 mol) added slowly as a solution in 50 mL of THF. The temperature was maintained at −30° C. for 1 h and then slowly raised to room temperature over a period of 3 h. The excess Grignard was destroyed by the careful addition of 200 mL saturated aqueous NH4Cl. The mixture was extracted with ethyl acetate (3×100 mL) and the combined organic layers washed with brine (2×50 mL) and dried over Na2SO4. After evaporation of the solvent, the product was isolated by flash column chromatography eluting with 0% to 50% ethyl acetate/hexanes to give 1.6 g of the title compounds as a light yellow oil.

reactant | iodine | II | I2
reactant | 2-(2-bromoethyl)-[1,3]dioxolane | 0.02 mol, 4.3 g | BrCCC1OCCO1 | C5H9BrO2
reactant | 4-fluoro-3-methyl-benzaldehyde | 0.02 mol, 3.0 g | FC1=C(C=C(C=O)C=C1)C | C8H7FO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(1,3-Dioxolan-2-yl)-1-(4-fluoro-3-methylphenyl)propan-1-ol | 1.6 g | O1C(OCC1)CCC(O)C1=CC(=C(C=C1)F)C | C13H17FO3
